US04435406
59.3 g of 2-methyl-5-acetamino-1,3-benzodioxole were nitrated at 15°-25° C. in 225 ml of glacial acetic acid by the dropwise addition of 27 ml of nitric acid in 95 ml of glacial acetic acid. After 30 minutes, the temperature rose spontaneously to 45° C. and the color of the mixture changed from yellow to red. The precipitated crystals were removed by filtration under suction and washed with methanol. There were obtained 64.4 g (88.5% of theory) of 2-methyl-5-acetamino-6-nitro-1,3-benzodioxole of melting point 112°-113° C.

reactant | 2-methyl-5-acetamino-1,3-benzodioxole | 59.3 g | CC1OC2=C(O1)C=CC(=C2)NC(=O)C | C10H11NO3
reactant | nitric acid | 27 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 225 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 95 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-5-acetamino-6-nitro-1,3-benzodioxole | 64.4 g, 88.5% | CC1OC2=C(O1)C=C(C(=C2)NC(=O)C)[N+](=O)[O-] | C10H10N2O5
